US06706904B1
A large batch of dicalciumhydroxy malate was produced by mixing 19.16 kg of malic acid in 68.19 L of water. In a separate tank, 16.33 kg of calcium oxide was mixed in 68.19 L of water. The two solutions were slowly mixed together and stirred. A milky solution containing the product resulted, which was spray dried to obtain a powdered product of dicalciumhydroxy malate.

reactant | malic acid | 19.16 kg | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | calcium oxide | 16.33 kg | [O-2].[Ca+2]
solvent | water | 68.19 L | O | H2O
solvent | water | 68.19 L | O | H2O
product | dicalciumhydroxy malate | C(C(O)CC(=O)[O-])(=O)OO.[Ca+2].[Ca+2].OOC(C(O)CC(=O)[O-])=O.OOC(C(O)CC(=O)[O-])=O.OOC(C(O)CC(=O)[O-])=O | InChI=1S/4C4H6O6.2Ca/c4*5-2(1-3(6)7)4(8)10-9;;/h4*2,5,9H,1H2,(H,6,7);;/q;;;;2*+2/p-4
